US07763639B2
1-BROMO-2-METHYL-3-(METHYLSULFONYL)-BENZENE
Preparation according to preparation 4: 1-bromo-2-methyl-3-(methylthio)benzene (1.33 g), carbon tetrachloride (8 ml), acetonitrile (8 ml), water (16 ml), sodium periodate (3.9 g), ruthenium trichloride (1 mg). Yield: 1.6 g. MS m/z (rel. intensity, 70 eV) 250 (M+, 69), 248 (M+, 67), 169 (49), 90 (63), 89 (bp).

reactant | 1-bromo-2-methyl-3-(methylthio)benzene | 1.33 g | BrC1=C(C(=CC=C1)SC)C | C8H9BrS
reactant | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | acetonitrile | 8 ml | C(C)#N | C2H3N
reactant | sodium periodate | 3.9 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 16 ml | O | H2O
catalyst | ruthenium trichloride | 1 mg | [Ru](Cl)(Cl)Cl
product | 1-BROMO-2-METHYL-3-(METHYLSULFONYL)-BENZENE | BrC1=C(C(=CC=C1)S(=O)(=O)C)C | C8H9BrO2S
